US04590188
A mixture of 4 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 1.99 g of 2-(dimethylamino)ethyl chloride hydrochloride, 4.3 g of potassium carbonate and 50 ml of acetone is refluxed for 18 hours. After the reaction is completed, insoluble materials are removed by filtration and washed with hot acetone. The filtrate and the washings are combined and then evaporated to remove solvent. The residue is converted to its hydrochloride and recrystallized from a mixture of isopropanol, ethanol and ether. 4 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride are obtained.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 4 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)F | C16H14FNO3S
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 1.99 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-8-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 4 g | Cl.COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC(=C2)F | InChI=1S/C20H23FN2O3S.ClH/c1-22(2)10-11-23-16-9-6-14(21)12-17(16)27-19(18(24)20(23)25)13-4-7-15(26-3)8-5-13;/h4-9,12,18-19,24H,10-11H2,1-3H3;1H/t18-,19+;/m1./s1
